US05811439
The same procedures used in Example 154 were repeated except for using 5.32 g of N-(2-methanesulfonyloxyethyl)pyrrolidine and 2.00 g of indole-4-carbaldehyde as a starting material to give 1.08 g of 1-[2-(pyrrolidin-1-yl)ethyl]indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 33%.

reactant | N-(2-methanesulfonyloxyethyl)pyrrolidine | 5.32 g | CS(=O)(=O)OCCN1CCCC1 | C7H15NO3S
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-[2-(pyrrolidin-1-yl)ethyl]indole-4-carbaldehyde | 1.08 g | N1(CCCC1)CCN1C=CC=2C(=CC=CC12)C=O | C15H18N2O
